US05219869
To a mixture of 1-(2-chloro-5-pyridylmethylamino)-1-methylamino-2-nitroethylene (3.0 g) and acetonitrile (30 ml) was added slowly and dropwise chlorocarbonylsulfenyl chloride (1.8 g) at 10° to 20° C. After an overnight stirring, the solvent was distilled off from the reaction liquid under reduced pressure and the thus obtained residue was refined with column chromatography (eluant: ethanol/chloroform=1/10) to obtain the desired 4-[N-(2-chloro-5-pyridylmethyl)-N-methylamino]-3-methyl-5-nitro-2-thiazolone (1.0 g) having a melting point in the range from 147° to 148° C.

reactant | 1-(2-chloro-5-pyridylmethylamino)-1-methylamino-2-nitroethylene | 3.0 g | ClC1=NC=C(C=C1)CNC(=C[N+](=O)[O-])NC | C9H11ClN4O2
reactant | chlorocarbonylsulfenyl chloride | 1.8 g | ClC(=O)SCl | CCl2OS
reactant | acetonitrile | 30 ml | C(C)#N | C2H3N
product | 4-[N-(2-chloro-5-pyridylmethyl)-N-methylamino]-3-methyl-5-nitro-2-thiazolone | 1.0 g | ClC1=NC=C(C=C1)CN(C)C=1N(C(SC1[N+](=O)[O-])=O)C | C11H11ClN4O3S
